US08981084B2
6-(3,5-Dimethyl-4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)nicotinonitrile
This compound was synthesized from 6-(3,5-dimethylpiperazin-1-yl)nicotinonitrile and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (35 mg, yield 18%). 1H NMR (400 MHz, CDCl3) δ 8.42 (d, J=1.8 Hz, 1H), 8.22 (dt, J=7.2 Hz, J=1.7 Hz, 1H), 8.16 (s, 1H), 7.68-7.62 (m, 3H), 6.66 (d, J=9.0 Hz, 1H), 4.46 (m, 2H), 4.29 (d, J=13.8 Hz, 1H), 3.36 (m, 2H), 1.16 (d, J=6.3 Hz, 6H). MS (ESI) m/z: Calculated for C22H19F3N6O2: 456.15. found: 457.2 (M+H)+.

reactant | 6-(3,5-dimethylpiperazin-1-yl)nicotinonitrile | CC1CN(CC(N1)C)C1=NC=C(C#N)C=C1 | C12H16N4
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | 6-(3,5-Dimethyl-4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)nicotinonitrile | yield 18% | CC1CN(CC(N1C(C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)=O)C)C1=NC=C(C#N)C=C1 | C22H19F3N6O2
